US09290451B2
a) 3-Methyl-1-(pyridazin-3-yl)butan-1-amine
A suspension of 3-methyl-1-(pyridazin-3-yl)butan-1-one (0.85 g, 5.2 mmol; CAN 138835-88-8), sodium cyanoborohydride (1.2 g, 19.2 mmol) and ammonium acetate (1.28 g, 16.6 mmol) in methanol (11.1 mL) was heated at 70° C. for 12 h. The solvent was removed under reduced pressure and the residual oil was partitioned between EtOAc and 1 M aqueous HCl solution. The aqueous layer was basified with 10% aqueous NaOH solution and extracted with EtOAc. The combined extracts were washed with brine and dried over Na2SO4. Filtration and evaporation provided the title compound (233 mg, 27%) as brown oil which was sufficiently pure to be used in the next reaction step. MS (EI): m/e=166.2 [M+H]+.

reactant | 3-methyl-1-(pyridazin-3-yl)butan-1-one | 5.2 mmol, 0.85 g | CC(CC(=O)C=1N=NC=CC1)C | C9H12N2O
reactant | sodium cyanoborohydride | 19.2 mmol, 1.2 g | C(#N)[BH3-].[Na+]
reactant | ammonium acetate | 16.6 mmol, 1.28 g | C(C)(=O)[O-].[NH4+]
solvent | methanol | 11.1 mL | CO | CH4O
product | 3-Methyl-1-(pyridazin-3-yl)butan-1-amine | 233 mg, 27% | CC(CC(N)C=1N=NC=CC1)C | C9H15N3
